* C:\Documents and Settings\hendrik\My Documents\LTprojects\AD8332vga\test vga.asc
XU1 vip vin 0 gain ref rclmp 0 vcc voh vol N001 en VGA
V1 vcc 0 5
R1 rclmp 0 2k7
V2 en 0 PWL(0 0 100u 5)
V3 gain 0 PWL(0 0 200u 0 1m 1)
V4 vip vin SINE(0 10m 100k)
R2 N001 0 1
C1 N001 0 1n
.tran 1m
.lib AD8332vga.cir
.backanno
.end
